US07202244B2
A solution of (3-Hydroxy-propyl)-carbamic acid tert-butyl ester (11 mmoles, 1.88 ml) in THF (20 ml) was added to a suspension of sodium hydride 50% grade (23 mmoles, 1.058 g) in THF (20 ml) and stirred at 50° C for 1 hour. Following cooling to 0° C., 4-Chloro-1-fluoro-2-nitro-benzene was added and the mixture stirred at RT overnight. After quenching with water, the organic layer was separated and the aqueous layer was extracted several times with Ethyl acetate. The combined organic layers were washed with water then brine, and dried over sodium sulfate. The crude reaction was purified by flash chromatography to afford [3-(4-Chloro-2-nitro-phenoxy)-propyl]-carbamic acid tert-butyl ester.

reactant | (3-Hydroxy-propyl)-carbamic acid tert-butyl ester | 11 mmoles, 1.88 ml | C(C)(C)(C)OC(NCCCO)=O | C8H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-Chloro-1-fluoro-2-nitro-benzene | ClC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [3-(4-Chloro-2-nitro-phenoxy)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCOC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H19ClN2O5
